US07112680B2
1-(2-Pyridyl)-1-ethanone-1-(1-phenyl-1H-benzo[d]imidazol-2-yl)-hydrazone (1c-7)
A mixture of 2-acetyl pyridine (1.00 g, 8.26 mmol) and 1-phenyl-2-hydrazinobenzimidazole (1.85 g, 8.26 mmol) in 20 ml of methanol is stirred at room temperature for 2 days after the addition of 6 drops of glacial acetic acid. The reaction is monitored by means of thin layer chromatography (Polygram Sil G/UV254 prefabricated foils; eluting agent: CH2Cl2:MeOH (12:1)). Subsequently, the reaction mixture is diluted with distilled water until a precipitate forms and stored for 24 hours in the refrigerator at approximately 5° C. The precipitate is filtered, washed several times with 50% methanol, and dried. The product is recrystallized from a mixture of methanol and water. Yield: 1.35 g (50% of theory).

reactant | 2-acetyl pyridine | 8.26 mmol, 1.00 g | C(C)(=O)C1=NC=CC=C1 | C7H7NO
reactant | 1-phenyl-2-hydrazinobenzimidazole | 8.26 mmol, 1.85 g | C1(=CC=CC=C1)N1C(=NC2=C1C=CC=C2)NN | C13H12N4
solvent | methanol | 20 ml | CO | CH4O
catalyst | acetic acid | 6 drops | C(C)(=O)O | C2H4O2
product | 1-(2-Pyridyl)-1-ethanone-1-(1-phenyl-1H-benzo[d]imidazol-2-yl)-hydrazone | C1(=CC=CC=C1)N1C(=NC2=C1C=CC=C2)NN=C(C)C2=NC=CC=C2 | C20H17N5
